US07241785B2
A mixture of 5-[2-[4-(5-methyl-2-phenyl-4-oxazolyl)methoxyphenyl]ethyl]-4-methoxymethoxymethyl-2-phenyloxazole (3.80 g), 10% sulfuric acid (10 ml) and tetrahydrofuran (100 ml) was refluxed for 2 hrs., and concentrated. Ethyl acetate was poured into the residue and the mixture was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography, and [5-[2-[4-(5-methyl-2-phenyl-4-oxazolyl)methoxyphenyl]ethyl]-2-phenyl-4-oxazolyl]methanol (2.03 g, yield 59%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 142–143° C.

reactant | 5-[2-[4-(5-methyl-2-phenyl-4-oxazolyl)methoxyphenyl]ethyl]-4-methoxymethoxymethyl-2-phenyloxazole | 3.80 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCC1=C(N=C(O1)C1=CC=CC=C1)COCOC | C31H30N2O5
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | [5-[2-[4-(5-methyl-2-phenyl-4-oxazolyl)methoxyphenyl]ethyl]-2-phenyl-4-oxazolyl]methanol | 2.03 g, yield 59% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCC1=C(N=C(O1)C1=CC=CC=C1)CO | C29H26N2O4
